### PR TITLE
continuous implies measurable

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

For use in PR #565

No doc of changelog yet

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/normedtype.v [hunk 1]
```diff
@@ -2881,6 +2881,59 @@ Qed.
...
+- by exists A => //; apply: (iA a (ratr q)) => //; rewrite ac (ltW cq).
+- by exists B => //; apply: (iB (ratr q) b) => //; rewrite cb (ltW cq).
+Qed.
+
+Lemma bigcup_ointsub_sub U q : bigcup_ointsub U q `<=` U.
+Proof. by move=> y [A [[oA _ +] _ Ay]]; exact. Qed.
+
+Lemma open_bigcup_rat U : open U ->
+  U = \bigcup_(q in [set q | ratr q \in U]) bigcup_ointsub U q.
+Proof.
```
Comment (CohenCyril) [inline theories/normedtype.v:2916]: Later on you could prove that `open = smallest topology is_interval` or something like that. But this is enough for now.
